US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(pentylaminocarbonyl)ethyl]piperazine
5.62 g of 3,4,5-trimethoxycinnamoyl chloride is added with stirring at room temperature to a solution of 4.15 g of 1-[1-(pentylaminocarbonyl)ethyl]piperazine in 60 ml of chloroform, and the resulting solution is stirred at room temperature for 20 minutes.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 5.62 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | 1-[1-(pentylaminocarbonyl)ethyl]piperazine | 4.15 g | C(CCCC)NC(=O)C(C)N1CCNCC1 | C12H25N3O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(pentylaminocarbonyl)ethyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NCCCCC)C=C(C1OC)OC | C24H37N3O5
